US04812573
A mixture of ethyl-3-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]propionate (4.08 g) and 10% sodium hydroxide solution (10 ml) in ethanol (10 ml) was stirred at room temperature for one hour. Ethanol was removed in vacuo, water (15 ml) added and the pH was adjusted to 6-7 with 2N HCl. This was extracted with ethylacetate:methanol 4:1 (3×50 ml) and dried (MgSO4). Concentration and crystallization from ethanol-methanol gave 3-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]propionic acid. 1.2H2O, 0.8NaCl (1.61 g, 59%); mpt. 137°-40° C.

reactant | ethyl-3-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]propionate | 4.08 g | C(C)OC(CCN1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O)=O | C20H23ClN2O4S
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]propionic acid | ClC=1C=C(C=CC1)NS(=O)(=O)C1=CC=C2CCN(CC2=C1)CCC(=O)O | C18H19ClN2O4S
